US04014920
104 g (0.525 mol) of 3-chloro-4-hydroxy-cinnamic acid are dissolved in 530 ml of 2 N sodium hydroxide solution, 800 g of ice are added and 107 g (1.05 mols) of acetic anhydride are introduced dropwise over the course of 15 minutes at 0°-5° C, whilst stirring. The crystals which have precipitated are then filtered off, suction-dried and recrystallised from alcohol-water. 4-Acetoxy-3-chloro-cinnamic acid of melting point 210°-213° C is obtained.

reactant | 3-chloro-4-hydroxy-cinnamic acid | 0.525 mol, 104 g | ClC=1C=C(C=CC(=O)O)C=CC1O | C9H7ClO3
reactant | acetic anhydride | 1.05 mols, 107 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | 2 N, 530 ml | [OH-].[Na+]
product | 4-Acetoxy-3-chloro-cinnamic acid | C(C)(=O)OC1=C(C=C(C=CC(=O)O)C=C1)Cl | C11H9ClO4
